US07074817B2
2-[1-[4-(tert-Butyl)benzyl]-5-(3-methylphenyl)-1H-indol-3-yl]-acetic acid
Hydrazine monohydrate (0.56 mL, 11.75 mmol) was added to a stirring solution of 2-[1-[4-(tert-Butyl)benzyl]-5-(3-methylphenyl)-1H-indol-3-yl]-2-oxoacetic acid (WAY-201417, 1.0 g, 2.35 mmol) in 2-methoxyethanol (10 mL). After the mixture was heated to 60° C. Sodium methoxide (1.34 g, 23.5 mmol) was added portionwise to the mixture. The reaction mixture was then slowly heated to 150° C., and concentrated. The mixture was kept stirring at 150° C. for 1 hour. The reaction mixture was cooled and poured onto ice water (100 mL). The aqueous mixture was extracted with methylene chloride and acidified with concentrated hydrocloric acid at 0° C. The organic extracts were washed with water and brine. Evaporation of the solvent and purification by flash column chromatography (5% methanol in methylene chloride) afforded an orange solid (0.452 g), m.p. 91-92° C. Mass spectrum [+ESI, (M+H)+] m/z 412. 1H NMR (400 MHz, DMSO-d6) δ 12.00 (br s, 1H), 7.75 (s, 1H), 7.51 (d, 1H, J=8.55 Hz), 7.45 (s, 1H), 7.42-7.37 (m, 3H), 7.32-7.29 (m, 3H), 7.15 (d, 2H, J=8.25 Hz), 7.19 (d, 1H, J=7.48 Hz), 5.34 (s, 2H), 3.70 (s, 2H), 2.37 (s, 3H), and 1.22 ppm (s, 9H).

reactant | Hydrazine monohydrate | 11.75 mmol, 0.56 mL | O.NN
reactant | 2-[1-[4-(tert-Butyl)benzyl]-5-(3-methylphenyl)-1H-indol-3-yl]-2-oxoacetic acid | 2.35 mmol, 1.0 g | C(C)(C)(C)C1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC(=CC=C2)C)C(C(=O)O)=O)C=C1 | C28H27NO3
reactant | Sodium methoxide | 23.5 mmol, 1.34 g | C[O-].[Na+]
solvent | 2-methoxyethanol | 10 mL | COCCO | C3H8O2
product | 2-[1-[4-(tert-Butyl)benzyl]-5-(3-methylphenyl)-1H-indol-3-yl]-acetic acid | 0.452 g | C(C)(C)(C)C1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC(=CC=C2)C)CC(=O)O)C=C1 | C28H29NO2
